US07919519B2
To a purple mixture of benzofuran-6-ol (1.85 g, 13.8 mmol) and N,N-diisopropylethylamine 99% (7.21 mL, 41.4 mmol) in 50 mL DCM was added 1,1,1-trifluoro-n-phenyl-n-((trifluoromethyl)sulfonyl)methanesulfonamide (4.93 g, 13.8 mmol). The reaction became light blue. After 2 h, the reaction was light yellow. The reaction was quenched with saturated aq. sodium bicarbonate, and the aqueous layer was extracted with DCM. The combined organics were dried over anhyd sodium sulfate, filtered, and concentrated in vacuo. The resulting material was purified by silica gel chromatography, 0-15% EtOAc/hexanes, to give benzofuran-6-yl trifluoromethanesulfonate as a semi-solid. A portion of the unpurified material was carried on as follows. A mixture of 9-benzyl-9-bora-bicyclo[3.3.1]nonane 0.5M in THF (23 mL, 11 mmol), benzofuran-6-yl trifluoromethanesulfonate (1.50 g, 5.6 mmol), potassium phosphate (3.6 g, 17 mmol), benzofuran-6-yl trifluoromethanesulfonate (1.50 g, 5.6 mmol), S-Phos (0.19 g, 0.45 mmol), Pd(OAc)2 (0.051 g, 0.23 mmol) was flushed with argon, sealed, and heated to 60° C. overnight. The green/gray reaction was cooled and filtered through celite rinsing with Et2O. The filtrate was concentrated and adsorbed onto 15 g silica gel and dried. The material was purified by silica gel chromatography, ISCO, 80 g, 0-10% EtOAc/hexanes to give 6-benzylbenzofuran. A portion of this material was processed as follows. To a solution of 6-benzylbenzofuran (0.663 g, 3.18 mmol) in 30 mL THF at −78° C. was added 1-butyllithium 2.5 M in hexanes (1.53 mL, 3.82 mmol) slowly dropwise. The reaction was allowed to stir for 25 min, at which point triisopropyl borate (1.08 mL, 4.68 mmol) was added slowly dropwise. After 0.5 h, the bath was removed and the reaction was allowed to warm to ambient temperature. After 10 min, 50 mL 2N HCl was added. The mixture was diluted with MTBE, and the organics were washed with brine, dried over anhyd. MgSO4, filtered, and concentrated in vacuo to give an oil. The oil was treated with hexanes to give a solid, and the material was filtered and rinsed with hexanes and dried in vacuo to give 6-benzylbenzofuran-2-ylboronic acid as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.47 (s, 2H), 7.57 (d, J=8.0 Hz, 1H), 7.42 (s, 1H), 7.39 (s, 1H), 7.24-7.33 (m, 4H), 7.15-7.22 (m, 1H), 7.10 (d, J=8.0 Hz, 1H), 4.06 (s, 2H).

reactant | 9-benzyl-9-bora-bicyclo[3.3.1]nonane | 0.5M | C(C1=CC=CC=C1)B1C2CCCC1CCC2 | C15H21B
reactant | THF | 11 mmol, 23 mL | C1CCOC1 | C4H8O
reactant | benzofuran-6-yl trifluoromethanesulfonate | 5.6 mmol, 1.50 g | FC(S(=O)(=O)OC1=CC2=C(C=CO2)C=C1)(F)F | C9H5F3O4S
reactant | potassium phosphate | 17 mmol, 3.6 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | benzofuran-6-yl trifluoromethanesulfonate | 5.6 mmol, 1.50 g | FC(S(=O)(=O)OC1=CC2=C(C=CO2)C=C1)(F)F | C9H5F3O4S
reactant | S-Phos | 0.45 mmol, 0.19 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
catalyst | Pd(OAc)2 | 0.23 mmol, 0.051 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6-benzylbenzofuran | C(C1=CC=CC=C1)C1=CC2=C(C=CO2)C=C1 | C15H12O
